US08871756B2
(3R,4R)-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4-(4-methylpiperazin-1-yl)pyrrolidin-3-ol
The title compound was prepared in analogy to Example 8-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (3R,4R)-4-(4-methylpiperazin-1-yl)pyrrolidin-3-ol. MS obsd. (ESI+) [(M+H)+] 522, 1H NMR (400 MHz, CD3OD) δ ppm 7.99-7.86 (m, 1 H), 7.84-7.75 (m, 1 H), 7.73 (s, 1 H), 7.64-7.52 (m, 1 H), 7.47 (d, J=8.59 Hz, 1 H), 7.43-7.32 (m, 1 H), 7.27 (d, J=8.59 Hz, 1 H), 6.27-6.09 (m, 1 H), 5.10 (brs, 2 H), 4.50 (brs, 1 H), 4.43-4.33 (m, 1 H), 3.81-3.62 (m, 2 H), 3.56 (dd, J=9.85, 4.55 Hz, 3 H), 3.45-3.35 (m, 1 H), 3.02-2.92 (m, 1 H), 2.84 (brs, 2 H), 2.76-2.62 (m, 3 H), 2.57 (brs, 3 H), 2.39 (s, 3 H), 2.32 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (3R,4R)-4-(4-methylpiperazin-1-yl)pyrrolidin-3-ol | CN1CCN(CC1)[C@H]1[C@@H](CNC1)O | C9H19N3O
product | (3R,4R)-1-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4-(4-methylpiperazin-1-yl)pyrrolidin-3-ol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N2C[C@H]([C@@H](C2)N2CCN(CC2)C)O)C)=O | C28H35N5O3S
